US09278940B2
To a suspension of 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.108 g, 0.36 mmol) in N,N-dimethylformamide (1.5 mL) was added K2CO3 (0.15 g, 1.07 mmol) and 1-isobutyl-piperazine (88.9 μL, 0.54 mmol). The resulting mixture was heated at 110° C. for 6 h. After that time N,N-dimethylacetamide (1.5 mL) was added and heating was continued for 20 h. After that time the reaction mixture was cooled to rt, diluted with ethyl acetate and filtered. The filtrate was concentrated under reduced pressure and the residue was washed with water, and dried under high vacuum. The product was purified by flash column chromatography (silica gel, 99:1 dichloromethane/methanol) to give 2-(6-(4-isobutylpiperazin-1-yl)pyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one (0.052 g, 34%) as a yellow solid: mp 188-189° C.; 1H NMR (400 MHz, CDCl3) δ 10.33 (br s, 1H), 7.83 (d, J=7.42 Hz, 1H), 7.65 (dd, J=8.59, 7.42, 1H), 6.76-6.88 (m, 2H), 6.48 (d, J=2.34 Hz, 1H), 3.99 (s, 3H), 3.94 (s, 3H), 3.64 (t, J=4.88 Hz, 4H), 2.55 (t, J=4.88 Hz, 4H), 2.17 (d, J=7.42 Hz, 2H), 1.75-1.95 (m, 1H), 0.95 (d, J=6.64 Hz, 6H); ESI MS m/z 424 [M+H]+.

reactant | 2-(6-fluoropyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.36 mmol, 0.108 g | FC1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C15H12FN3O3
reactant | K2CO3 | 1.07 mmol, 0.15 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 1-isobutyl-piperazine | 0.54 mmol, 88.9 μL | C(C(C)C)N1CCNCC1 | C8H18N2
reactant | N,N-dimethylacetamide | 1.5 mL | CN(C(C)=O)C | C4H9NO
solvent | N,N-dimethylformamide | 1.5 mL | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(6-(4-isobutylpiperazin-1-yl)pyridin-2-yl)-5,7-dimethoxyquinazolin-4(3H)-one | 0.052 g, 34% | C(C(C)C)N1CCN(CC1)C1=CC=CC(=N1)C1=NC2=CC(=CC(=C2C(N1)=O)OC)OC | C23H29N5O3
